US08466157B2
N-(4-hydroxynaphthalen-1-yl)thiophene-2-sulfonamide (3):
1.957 g 4-aminonaphth-1-ol hydrochloride salt was suspended in 80 ml dichloromethylene, to which at 0° C. was added 3.0 ml triethylamine. The suspension became a dark brown solution. To the solution was added 1.827 g thiophene-2-sulfonyl chloride. The mixture was stirred at r.t. overnight. The reaction mixture was diluted with dichloromethylene to 200 ml and washed with 1N HCl solution (30 ml×3), water (30 ml×3) and brine (30 ml). Dried over MgSO4, the organic phase was filtered and the filtrate was concentrated to dryness. The crude product was suspended in 50% methanol/H2O and filtered. The solid was washed with 50% methanol/H2O affording 2.7 g (90%) brown solid, m.p.: 146-148° C.

reactant | 4-aminonaphth-1-ol hydrochloride salt | 1.957 g | Cl.NC1=CC=C(C2=CC=CC=C12)O
reactant | thiophene-2-sulfonyl chloride | 1.827 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
product | N-(4-hydroxynaphthalen-1-yl)thiophene-2-sulfonamide | OC1=CC=C(C2=CC=CC=C12)NS(=O)(=O)C=1SC=CC1 | C14H11NO3S2
